US08227613B2
A) 2,6-Dichloro-4-methyl-nicotinic acid methyl ester
To a solution of 8.05 g (39.1 mmol) of 2,6-dichloro-4-methyl-nicotinic acid [Lamm, G. Ger. Offen. (1977), DE 2538950] in 100 ml of DMF was added 8.10 g (58.6 mmol) of potassium carbonate. While stirring, 12.16 ml=27.7 g (195.4 mmol) of iodomethane was added drop by drop and the reaction mixture was stirred for 6 hours at RT. It was then poured into crashed ice and extracted twice with EtOAc; the organic phases were washed with water, dried over magnesium sulfate, filtered and evaporated to give 8.47 g (99%) of the title compound as light yellow solid. MS: 219.0 (M+, 2Cl).

reactant | 2,6-dichloro-4-methyl-nicotinic acid | 39.1 mmol, 8.05 g | ClC1=C(C(=O)O)C(=CC(=N1)Cl)C | C7H5Cl2NO2
reactant | potassium carbonate | 58.6 mmol, 8.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 195.4 mmol, 27.7 g | IC | CH3I
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2,6-Dichloro-4-methyl-nicotinic acid methyl ester | 8.47 g, 99% | COC(C1=C(N=C(C=C1C)Cl)Cl)=O | C8H7Cl2NO2
